US07517889B2
To a solution of 4-[2-(6-chloro-2-methoxy-pyrimidin-4-ylamino)-ethyl]-benzoic acid (0.41 g, 1.33 mmol), acetic acid hydrazide (0.14 g, 2 mmol), and triethylamine (0.7 mL, 3.99 mmol) in DMF (3 mL) is added [(benzotriazol-1-yloxy)-dimethylamino-methylene]-dimethyl-ammonium tetrafluoro borate (0.51 g, 1.6 mmol) at room temperature. After 15 h at 20° C., the solid is filtered, and washed with water to afford 4-[2-(6-chloro-2-methoxy-pyrimidin-4-ylamino)-ethyl]-benzoic acid N′-acetyl-hydrazide (267 mg). The filtrate is extracted with EtOAc, and concentrated to afford additional amount of 4-[2-(6-chloro-2-methoxy-pyrimidin-4-ylamino)-ethyl]-benzoic acid N′-acetyl-hydrazide (100 mg). LCMS: RT=2 minutes; MS: 364 (M+H).

reactant | 4-[2-(6-chloro-2-methoxy-pyrimidin-4-ylamino)-ethyl]-benzoic acid | 1.33 mmol, 0.41 g | ClC1=CC(=NC(=N1)OC)NCCC1=CC=C(C(=O)O)C=C1 | C14H14ClN3O3
reactant | acetic acid hydrazide | 2 mmol, 0.14 g | C(C)(=O)NN | C2H6N2O
reactant | triethylamine | 3.99 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | [(benzotriazol-1-yloxy)-dimethylamino-methylene]-dimethyl-ammonium tetrafluoro borate | 1.6 mmol, 0.51 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(N(C)C)=[N+](C)C
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-[2-(6-chloro-2-methoxy-pyrimidin-4-ylamino)-ethyl]-benzoic acid N′-acetyl-hydrazide | 267 mg | C(C)(=O)NNC(C1=CC=C(C=C1)CCNC1=NC(=NC(=C1)Cl)OC)=O | C16H18ClN5O3
